US06953790B2
Step F. tert-Butyl 4-(6-fluoro-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate
Carbonyldiimidazole (1.53 g, 9.41 mmol) was added to a solution of tert-butyl 4-[(2-amino-5-fluoropyridin-3-yl)amino]piperidine-1-carboxylate (0.73 g, 2.35 mmol) in acetonitrile (10 mL) at room temperature. The reaction was stirred until all the starting material was consumed (approximately 2 h) and then the solvent was evaporated in vacuo. The residue was diluted with water, extracted with dichloromethane (3×), dried over magnesium sulfate and then concentrated. The crude product was purified by chromatography (silica gel, 1% to 10% methanol in methylene chloride gradient elution), which gave the title compound (0.309 g). MS 337.2 (M+1).

reactant | Carbonyldiimidazole | 9.41 mmol, 1.53 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl 4-[(2-amino-5-fluoropyridin-3-yl)amino]piperidine-1-carboxylate | 2.35 mmol, 0.73 g | NC1=NC=C(C=C1NC1CCN(CC1)C(=O)OC(C)(C)C)F | C15H23FN4O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | tert-Butyl 4-(6-fluoro-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-1-yl)piperidine-1-carboxylate | 0.309 g | FC=1C=C2C(=NC1)NC(N2C2CCN(CC2)C(=O)OC(C)(C)C)=O | C16H21FN4O3
